US09399638B2
Intermediate-14b: 5-(2-Chloro-5-ethylpyridin-4-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one
Step-2: 5-(3-Ethylpyridin-4-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one: The title compound was prepared from ethyl-3-ethylisonicotinate by following the similar procedure sequentially as described instep-2, step-3 and step-4 of Intermediate-1a. 1HNMR (400 MHz, CDCl3) δ 8.63 (s, 1H), 8.59 (d, J=5.0 Hz, 1H), 7.64 (d, J=5.0 Hz, 1H), 3.56 (s, 3H), 3.03 (q, J=7.5 Hz, 2H), 1.28 (t, J=7.5 Hz, 3H); GC-MS (m/z) 205 (M)+ Step-3: 3-Ethyl-4-(4-methyl-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)pyridine-1-oxide: To a stirred solution of step-2 intermediate (3.50 g, 17.1 mmol) in acetic acid (30 mL) was added hydrogen peroxide (0.62 mL, 20.4 mmol) drop-wise at RT and the resulting mixture was heated to 80° C. and maintained for 12 h. The reaction was cooled to RT and basified with solid potassium carbonate. The resulting slurry was diluted with DCM (50 mL) and filtered. The filtrate was concentrated under vacuum to afford 2.70 g (70%) of the title compound as white solid. GC-MS (m/z) 221 (M)+.

reactant | 5-(3-Ethylpyridin-4-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one | C(C)C=1C=NC=CC1C1=NN(C(O1)=O)C | C10H11N3O2
reactant | ethyl-3-ethylisonicotinate | C(C)OC(C1=C(C=NC=C1)CC)=O | C10H13NO2
reactant | 3-Ethyl-4-(4-methyl-5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)pyridine-1-oxide | C(C)C=1C=[N+](C=CC1C=1OC(N(N1)C)=O)[O-] | C10H11N3O3
reactant | hydrogen peroxide | 20.4 mmol, 0.62 mL | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 5-(2-Chloro-5-ethylpyridin-4-yl)-3-methyl-1,3,4-oxadiazol-2(3H)-one | 2.70 g, 70% | ClC1=NC=C(C(=C1)C1=NN(C(O1)=O)C)CC | C10H10ClN3O2
